US08022063B2
(4-Bromo-2-propynoylphenoxy)acetic acid ethyl ester.
To a solution of [4-bromo-2-(3-trimethylsilanylpropynoyl)phenoxy]acetic acid ethyl ester (0.83 g, 2.16 mmol) in methanol (20 mL) was added a 0.1M aqueous solution of Na2B4O7 (10 mL). After stirring for 2-3 minutes at room temperature, Et2O and 1N aq. HCl were added. The phases were separated, and the organic phase was washed with brine, dried (MgSO4) and concentrated in vacuo to give the title compound as yellow oil which crystallized upon standing (0.65 g, 2.09 mmol, 96%). LC/MS (an 10p8) Rt 3.58 min, m/z 311 [M+H]+; 1H NMR (CDCl3): δ1.31 (t, 3H), 3.45 (s, 1H), 4.27 (q, 2H), 4.74 (s, 2H), 6.83 (d, 1H), 7.61 (dd, 1H), 8.14 (d, 1H).

reactant | [4-bromo-2-(3-trimethylsilanylpropynoyl)phenoxy]acetic acid ethyl ester | 2.16 mmol, 0.83 g | C(C)OC(COC1=C(C=C(C=C1)Br)C(C#C[Si](C)(C)C)=O)=O | C16H19BrO4Si
reactant | Et2O | CCOCC | C4H10O
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | (4-Bromo-2-propynoylphenoxy)acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(C#C)=O)=O | C13H11BrO4
